US03931169
A. 3,5-Bis(phenylmethylene)-4-piperidone, hydrochloride
14 g (0.1 mole) of N-acetyl-4-piperidone and 32 g (0.3 mole) of benzaldehyde in 150 ml of ethanol are cooled to 15° and treated dropwise with 33 ml of concentrated HCl, refluxed for 6 hours, and stored overnight at room temperature. The light yellow solid is filtered, washed with ethanol, then with ether and air-dried, weight 26 g (83%), mp. 273°-275°(dec.).

reactant | N-acetyl-4-piperidone | 0.1 mole, 14 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | benzaldehyde | 0.3 mole, 32 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 33 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3,5-Bis(phenylmethylene)-4-piperidone, hydrochloride | Cl.C1(=CC=CC=C1)C=C1CNCC(C1=O)=CC1=CC=CC=C1 | InChI=1S/C19H17NO.ClH/c21-19-17(11-15-7-3-1-4-8-15)13-20-14-18(19)12-16-9-5-2-6-10-16;/h1-12,20H,13-14H2;1H
